US04144349
1,2,4,5,6,7-Hexahydro-10-bromothiocino[5,4-b]indole 3,3-dioxide
A mixture of 14.1g (0.08 mole) of 1-thiacyclooctane-5-one 1,1-dioxide and 16.1g (0.086 mole) of p-bromophenylhydrazine in 125 ml of glacial acetic acid is treated according to the procedure in Example 2. There is obtained 14.2g (54%) of a buff solid, m.p. 280° C., dec. Recrystallization from dimethylformamide-methanol gives 11.5g (44%) of an analytical sample, m.p. 283° C., dec.

reactant | 1-thiacyclooctane-5-one 1,1-dioxide | 0.08 mole, 14.1g | S1(CCCC(CCC1)=O)(=O)=O | C7H12O3S
reactant | p-bromophenylhydrazine | 0.086 mole, 16.1g | BrC1=CC=C(C=C1)NN | C6H7BrN2
solvent | acetic acid | 125 ml | C(C)(=O)O | C2H4O2
product | 1,2,4,5,6,7-Hexahydro-10-bromothiocino[5,4-b]indole 3,3-dioxide | BrC1=CC=2C3=C(NC2C=C1)CCCS(CC3)(=O)=O | C13H14BrNO2S
